US04360645
A 100-ml metal tube lined with stainless steel and charged with 105.3 g (0.22 mol) of perfluoro(7-phenoxy-4-oxa-1-heptene) was heated at 140° while oxygen was pressured in intermittently until no pressure drop was observed. The liquid product mixture was fractionated to afford 78.5 g of distillate, bp 37°-70° (3 min). The distillation was shaken with 1 liter of ice water, and then 25 ml of CFCl2CF2Cl and some calcium sulfate were added to hasten separation. The lower layer was dried over calcium sulfate and fractionated to give 33.3 g (31%) of perfluoro(7-phenoxy-1,2-epoxy-4-oxaheptane), bp 55° (1.9 mm). IR (CCl4): 6.47 (epoxide ring), 6.58 (aromatic C=C), 8-9μ (CF, C-O). NMR (CCl4): 19F -84.1 (m, 2F, OCF2), -84.6 (m, 2F, OCF2), -129.0 (s, 2F, CF2), -151.8 (m, 2F, arom. CF), -155.1 (t, JFF 21.0 Hz, 1F, arom. CF), -156.6 (t, JFF 17.9 (Hz, ring CF), and -161.7 ppm (m, 2F, arom. CF), with AB groupings at -7382, -7534, -7566, and -7719 Hz (m, 2F) for CF2 adjacent to epoxide ring and at -10381 and -10424 Hz (d of t, JFF 18.8, 9.8 Hz, 1F) and -10600 and -10642 Hz (d, JFF 17.3 Hz, 1F) for epoxide CF2.

reactant | perfluoro(7-phenoxy-4-oxa-1-heptene) | 0.22 mol, 105.3 g | FC(=C(C(OC(C(C(OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F)(F)F)(F)F)(F)F)F)F | C12F16O2
reactant | oxygen | O=O | O2
product | perfluoro(7-phenoxy-1,2-epoxy-4-oxaheptane) | 33.3 g, 31% | FC1(C(C(OC(C(C(OC2=C(C(=C(C(=C2F)F)F)F)F)(F)F)(F)F)(F)F)(F)F)(O1)F)F | C12F16O3
